US05208247
2-(Tetradecyloxy)benzoic acid methyl ester
A mixture of 40 g of methyl 2-hydroxybenzoate, 45.4 g of powdered potassium carbonate, 700 ml acetone and 78.2 g of 1-bromotetradecane is heated at reflux temperature for 5 days. The reaction is cooled, filtered and concentrated in vacuo. The residue is dissolved in ethyl acetate; washed with water, saturated sodium bicarbonate, 10% sodium hydroxide, water and saturated sodium chloride; dried and concentrated in vacuo. The residue is purified by column chromatography (silica gel:0-10% ethyl acetate/hexane) to give 46.0 g of the desired product.

reactant | methyl 2-hydroxybenzoate | 40 g | OC1=C(C(=O)OC)C=CC=C1 | C8H8O3
reactant | potassium carbonate | 45.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromotetradecane | 78.2 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | 2-(Tetradecyloxy)benzoic acid methyl ester | 46.0 g | COC(C1=C(C=CC=C1)OCCCCCCCCCCCCCC)=O | C22H36O3
